US04994569
3,4-Methylenedioxyaniline (1.1 g) is added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of (5RS, 6SR)-5-(4-nitrophenoxycarbonyloxy)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazine (1.67 g) and 4-(dimethylamino)pyridine (0.2 g) in anhydrous acetonitrile (50 cc). The solution obtained is heated to reflux for 5 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The oil obtained is purified by chromatography on silica (0.063-0.2 mm; 50 g) contained in a column 2 cm in diameter [eluent: cyclohexane/ethyl acetate/triethylamine (65:30:5 by volume)], collecting 15-cc fractions. Fractions 3 to 6 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in diisopropyl ether, (5RS, 6SR)-5-(3,4-methylenedioxyphenylcarbamoyloxy)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazine (0.8 g), m.p. 138° C., is obtained.

reactant | 3,4-Methylenedioxyaniline | 1.1 g | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | (5RS, 6SR)-5-(4-nitrophenoxycarbonyloxy)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazine | 1.67 g | [N+](=O)([O-])C1=CC=C(OC(=O)OC2CN=C(OC2C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C23H18N2O6
catalyst | 4-(dimethylamino)pyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 cc | C(C)#N | C2H3N
product | (5RS, 6SR)-5-(3,4-methylenedioxyphenylcarbamoyloxy)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazine | 0.8 g | C1OC=2C=C(C=CC2O1)NC(=O)OC1CN=C(OC1C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O5
